US07442791B2
To a suspension of 1 g (2.96 mmol) of trans-N-(4-hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide in 12 mL of toluene were added 0.9 ml (6.04 mmol, 2 eq) of bromo-acetic acid tert-butyl ester, 100 mg (0.3mmol, 0.1 eq) of tetra-N-butylammonium hydrogensulfate and 12 mL of 50% aqueous NaOH. The mixture was stirred at 500 for 1 h. The organic phase was dissolved in EtOAc, dried over Na2SO4, and the solvent evaporated. Column chromatography on silica gel gave 1.3 g (97%) of trans-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-acetic acid tert-butyl ester as an off-white solid, MS: 469 (M+NH4+).

reactant | trans-N-(4-hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | 2.96 mmol, 1 g | O[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C14H18F3NO3S
reactant | bromo-acetic acid tert-butyl ester | 6.04 mmol, 0.9 ml, 2 eq | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | NaOH | 12 mL | [OH-].[Na+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | trans-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-acetic acid tert-butyl ester | 1.3 g, 97% | C(C)(C)(C)OC(CO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C20H28F3NO5S
